Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Asacol / OxyContin
 
Attending: ___.
 
Chief Complaint:
confusion
traumatic foley removal
 
Major Surgical or Invasive Procedure:
N/A this admission
Recent: Anterior/Posterior Lumbar Fusion on ___

 
History of Present Illness:
___ now s/p L4-5 decompression, L4-S1 Fusion, L1-4 ___ on ___. 
Mr ___ experienced urinary retention requiring foley 
replacement X2 and subsequent d/c to home on ___ w/ 
plans for urology follow up. Mr ___ was re-admitted on ___ 
for confusion and traumatic foley removal. 
 
Past Medical History:
PAST MEDICAL HISTORY: 
PTSD - secondary to experiences in ___ and working as a
___
Chronic low back pain, s/p laminectomies and recent spine fusion
Neuropathic pain in feet
Hyperlipidemia
DM
Alcoholism
CVA ___
HTN
Chronic Back Pain
Anxiety/Depression

 
Social History:
___
Family History:
Mother with ___.
Cousin overdosed on ___. 
His uncle died having used alcohol and "pills".

 
Physical Exam:
 AVSS
 Well appearing, NAD, comfortable
 All fingers WWP, brisk capillary refill, 2+ distal pulses
 BLE: SILT L1-S1 dermatomal distributions
 BLE: 4+/5 ___
 All toes WWP, brisk capillary refill, 2+ distal pulses
 
Pertinent Results:
___ 04:20AM BLOOD WBC-9.2 RBC-2.49* Hgb-7.9* Hct-24.7* 
MCV-99* MCH-31.7 MCHC-32.0 RDW-14.0 RDWSD-50.7* Plt ___
___ 04:15AM BLOOD WBC-8.7 RBC-2.35* Hgb-7.3* Hct-22.7* 
MCV-97 MCH-31.1 MCHC-32.2 RDW-13.9 RDWSD-48.9* Plt ___
___ 10:00PM BLOOD WBC-9.2 RBC-2.37* Hgb-7.5* Hct-23.0* 
MCV-97 MCH-31.6 MCHC-32.6 RDW-14.0 RDWSD-49.8* Plt ___
___ 09:20AM BLOOD WBC-11.7* RBC-2.44* Hgb-7.7* Hct-24.1* 
MCV-99* MCH-31.6 MCHC-32.0 RDW-14.1 RDWSD-51.4* Plt ___
___ 10:00PM BLOOD Neuts-81.2* Lymphs-6.3* Monos-9.0 Eos-2.9 
Baso-0.2 Im ___ AbsNeut-7.48* AbsLymp-0.58* AbsMono-0.83* 
AbsEos-0.27 AbsBaso-0.02
___ 04:20AM BLOOD Plt ___
___ 04:15AM BLOOD Plt ___
___ 10:00PM BLOOD Plt ___
___ 10:00PM BLOOD ___ PTT-28.1 ___
___ 04:15AM BLOOD Glucose-140* UreaN-22* Creat-0.8 Na-134 
K-4.4 Cl-101 HCO3-24 AnGap-13
___ 10:00PM BLOOD Glucose-215* UreaN-26* Creat-0.9 Na-134 
K-4.3 Cl-98 HCO3-25 AnGap-15
___ 09:20AM BLOOD Glucose-206* UreaN-25* Creat-1.1 Na-132* 
K-4.5 Cl-95* HCO3-22 AnGap-20
___ 09:20AM BLOOD ALT-119* AST-67* AlkPhos-174* TotBili-0.5
___ 04:15AM BLOOD Calcium-7.7* Phos-3.0 Mg-2.0
___ 10:00PM BLOOD Calcium-7.9* Phos-2.9 Mg-2.2

CT Head ___: Impression: No evidence for acute intracranial 
abnormalities.

CXR ___: In comparison to ___ chest radiograph, 
cardiomediastinal contours are stable. Lungs are clear. 
Peripheral left hemidiaphragm appears less sharp than on the 
prior study. This could be due to technical differences between 
the exams or may potentially reflect a small pleural effusion on 
this semi upright radiograph. Followup upright chest radiograph 
may be helpful on when the patient's condition permits. 

Urine Cx from ___: No Growth
UA from ___: positive for bacteria and wbc as well as a large 
amount of leukocytes. 

 
Brief Hospital Course:
Mr ___ was re-admitted to the Spine Service on ___ with 
confusion and traumatic foley removal. Medicine was consulted to 
help with management of his confusion. His narcotics were 
thought to be a contributing factor to his confusion along with 
a possible urinary tract infection. Head CT was negative for any 
intracranial process and CXR on ___ were negative for any 
infectious process. Urine Cx from Emergency Room on ___ was 
negative. Mr ___ developed urinary retention again requiring 
foley replacement. Urinalysis on ___ was positive. He was 
started on Bactrim and will require a 7 days course. Mr ___ 
will follow up with urology in 1 week for another void trial. 
Mr. ___ were slightly elevated. His post-op blood 
loss anemia was stable. Calcium was slightly low. He does have 
increased pain given that he is unable to take the dilaudid due 
to increased confusion. He should have follow up labs 
(___) drawn on ___. Follow up for Spine, 
Urology, and his PCP are in place. Mr. ___ is agreeable to 
this plan for discharge and follow up. 
 
Medications on Admission:
Meds Prior to ___ Admission:
Albuterol
ASA
Atorvastatin
Lexapro
Lisinpril
Nortriptyline
Pregabalin
Flomax
MVI
Fish Oil
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Calcium Carbonate 1000 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Escitalopram Oxalate 40 mg PO DAILY 
8. Lisinopril 5 mg PO DAILY 
9. Nortriptyline 150 mg PO QHS 
10. Pregabalin 150 mg PO BID 
11. Senna 17.2 mg PO HS 
12. Sulfameth/Trimethoprim DS 1 TAB PO BID urinary tract 
infection 
7 days 
13. Tamsulosin 0.4 mg PO QHS 
14. TraMADol ___ mg PO Q6H:PRN pain 
RX *tramadol [Ultram] 50 mg ___ tablet(s) by mouth every six 
(6) hours Disp #*45 Tablet Refills:*0
15. TraZODone 25 mg PO QHS insomnia/agitation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Adjacent segment degeneration L4-5.
2. Spondylolysis of L5.
3. Bilateral lower extremity radicular symptoms from lumbar
    stenosis, lateral recess stenosis.
4. Status post L1-L4 instrumented fusion.
5. Delirium
6. Urinary Tract Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Lumbar Decompression With Fusion:

You have undergone the following operation: Lumbar Decompression 
With Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without getting up and 
walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet: Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace:You do not need a brace. 

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery, do not get the incision wet.Cover it with a sterile 
dressing.Call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

                At the 2-week visit we will check your 
incision,take baseline X-rays and answer any questions.We may at 
that time start physical therapy

                We will then see you at 6 weeks from the day of 
the operation and at that time release you to full activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:
Remove the dressing in 2 days.If the incision is draining cover 
it with a new sterile dressing.If it is dry then you can leave 
the incision open to the air.Once the incision is completely dry 
(usually ___ days after the operation) you may take a shower.Do 
not soak the incision in a bath or pool.If the incision starts 
draining at anytime after surgery,do not get the incision 
wet.Cover it with a sterile dressing and call the office.
 
Followup Instructions:
___